US07112610B2
To (R)-4-methyl-heptanoic acid (19 g, 0.132 mol) and triethylamine (49.9 g, 0.494 mol) in THF (500 mL) at 0° C. was added trimethylacetylchloride (20 g, 0.17 mol). After 1 hour LiCl (7.1 g, 0.17 mol) was added followed by (4R,5S)-(+)-4-methyl-5-phenyl-2-oxazolidinone) (30 g, 0.17 mol). The mixture was warmed to room temperature and after 16 hours the filtrate was removed by filtration and the solution concentrated under reduced pressure. Flash chromatography (7:1 hexane/EtOAc) gave (4R,5S)-4-methyl-3-((R)-4-methyl-heptanoyl)-5-phenyl-oxazolidin-2-one as an oil. 31.5 g; 79%. [α]D=+5.5 (c 1 in CHCl3). MS, m/z (relative intensity): 304 [M+H, 100%]; 1H NMR (400 MHz; CDCl3) δ 7.4–7.2 (m, 5H), 5.6 (d, J=7.32 Hz, 1H), 4.75 (m, 1H), 2.96 (m, 1H), 2.86 (m, 1H), 1.62 (m, 1H), 1.43 (m, 1H), 1.25 (m, 4H), 1.12 (m, 1H), 0.85 (m, 9H); 13C NMR (100 MHz; CDCl3) 6173.70, 153.23, 133.81, 133.59, 128.92, 128.88, 128.92, 128.88, 125.83, 79.12, 54.93, 39.24, 33.66, 32.32, 31.47, 27.18, 26.52, 20.25, 19.57, 14.75, 14.52.

reactant | (R)-4-methyl-heptanoic acid | 0.132 mol, 19 g | C[C@@H](CCC(=O)O)CCC | C8H16O2
reactant | triethylamine | 0.494 mol, 49.9 g | C(C)N(CC)CC | C6H15N
reactant | trimethylacetylchloride | 0.17 mol, 20 g | CC(C(=O)Cl)(C)C | C5H9ClO
reactant | LiCl | 0.17 mol, 7.1 g | [Li+].[Cl-]
reactant | (4R,5S)-(+)-4-methyl-5-phenyl-2-oxazolidinone | C[C@H]1NC(O[C@H]1C1=CC=CC=C1)=O | C10H11NO2
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (4R,5S)-4-methyl-3-((R)-4-methyl-heptanoyl)-5-phenyl-oxazolidin-2-one | C[C@H]1N(C(O[C@H]1C1=CC=CC=C1)=O)C(CC[C@@H](CCC)C)=O | C18H25NO3
